data/pmechdb/original/mc_train_fold0/raw/train.txt
C[C:20](=[O:21])OC(=O)CCC=O.C[NH2:10]>>C[C:20]([NH2+:10]C)([O-:21])OC(=O)CCC=O 10=20;20,21=21
[H:20][F:21].CC(C)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C(C)C.[F-:21] 10,11=10,20;20,21=21
CC(=O)C1=C(C=CC=C1)[NH2:10].C1=CC=C(C=C1)CC2[C:20](=[O:21])OC(=O)N2.C(=O)(C(F)(F)F)O>>CC(=O)C1=C(C=CC=C1)[NH2+:10][C:20]2(C(NC(=O)O2)CC3=CC=CC=C3)[O-:21].C(=O)(C(F)(F)F)O 10=20;20,21=21
C[NH:10]C1=CC=CC=C1.[CH3:20][I:21]>>C[NH+:10]([CH3:20])C1=CC=CC=C1.[I-:21] 10=20;20,21=21
C1C(C(C(C(C1N=[N+]=[N-])OC2C(C(C(C(O2)CN=[N+]=[N-])O)O)O)O)OC3C(C(C(C(O3)C[O+:21]=[CH:20]C4=CC=CC=C4)[OH:10])N=[N+]=[N-])O)N=[N+]=[N-].CC1=CC=C(C=C1)S(=O)(=O)[O-].CO>>C1C(C(C(C(C1N=[N+]=[N-])OC2C(C(C(C(O2)CN=[N+]=[N-])O)O)O)O)OC3C(C(C4C(O3)C[O:21][CH:20]([OH+:10]4)C5=CC=CC=C5)N=[N+]=[N-])O)N=[N+]=[N-].CC1=CC=C(C=C1)S(=O)(=O)[O-].CO 10=20;20,21=21
CC1CC(C23CCC[N+]4(C2(CCC4)C(=O)CC3C1O)O[C:20](C(F)(F)F)([O-:10])[O:21]C(=O)C(F)(F)F)O>>CC1CC(C23CCC[N+]4(C2(CCC4)C(=O)CC3C1O)O[C:20](=[O:10])C(F)(F)F)O.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CC(C)C)CCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC(C)C)CCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[NH+:21]1CCCO[C:20]1([O-:10])Cl>>C[NH:21]CCCO[C:20](=[O:10])Cl 10=20;20,21=21
[H:20][O:21]CC.[C-:10](Cl)(Cl)Cl>>[H:20][C:10](Cl)(Cl)Cl.CC[O-:21] 10=20;20,21=21
CC(=O)[O:21][CH:20](O)[O-:10]>>CC(=O)[O-:21].[CH:20](=[O:10])O 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)S(=O)(=O)O)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.[CH:22]1=[C:21](OC=C1S(=O)(=O)O)Br 10=20;20,21=21,22
CN[C:20](=[O:21])Cl.[NH3:10]>>CN[C:20]([NH3+:10])([O-:21])Cl 10=20;20,21=21
COC(=O)[CH:20]([N-:10]C(=O)OCC1=CC=CC=C1)[Cl:21].CCC=C.[Mg+]Br>>COC(=O)[CH:20]=[N:10]C(=O)OCC1=CC=CC=C1.[Cl-:21].CCC=C.[Mg+]Br 10=20;20,21=21
[H:20][O:21]C(C1CC1C=C)C(C=C)[Si](C)(C)C.[H:10][K:11]>>C[Si](C)(C)C(C=C)C(C1CC1C=C)[O-:21].[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
[H:20][C:21](C)(C(=O)OC)C(=O)OC.[H:10][Na:11]>>C[C-:21](C(=O)OC)C(=O)OC.[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][O:21]CC.CCOC1(CCC(C(=C1)O)(C)C)[OH:10]>>[H:20][OH+:10]C1(CCC(C(=C1)O)(C)C)OCC.CC[O-:21] 10=20;20,21=21
CC1(C2C1[C:20](=[O:21])C(C2OS(=O)(=O)C)(C)C)C.[OH-:10]>>CC1(C2C1[C:20](C(C2OS(=O)(=O)C)(C)C)([OH:10])[O-:21])C 10=20;20,21=21
CCC1CC[C:20]2(C1[Br+:21]2)C.[Br-:10]>>CCC1CC[C:20](C1[Br:21])(C)[Br:10] 10=20;20,21=21
CCCC1=C(C(=CC=C1[S+:21]2[C:20](C2(CC)CC)(C)C(=CP3(=[O:10])OCC(O3)C)Cl)C)CC.[Cl-]>>CCCC1=C(C(=CC=C1[S:21]C(CC)(CC)[C:20]2(C(=CP3(=[O+:10]2)OCC(O3)C)Cl)C)C)CC.[Cl-] 10=20;20,21=21
CC(CC(=[O:10])C)[C:20](=[OH+:21])C1=CC=CC=C1.CC1=CC=CC=C1.C(F)(F)(F)S(=O)(=O)[O-]>>CC1CC(=[O+:10][C:20]1(C2=CC=CC=C2)[OH:21])C.CC1=CC=CC=C1.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][CH:21](C)[CH2:22][O:23]S(=O)(=O)C(F)(F)F.[NH2-:10]>>[H:20][NH2:10].C[CH:21]=[CH2:22].C(F)(F)(F)S(=O)(=O)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1(C(=CCC1(C)[O-])C)CC2=CC=CO2.C1=COC(=C1)C[NH2:10].O>>[H:20][NH2+:10]CC1=CC=CO1.CC1=CCC([N:21]1CC2=CC=CO2)(C)[O-].O 10=20;20,21=21
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OCC(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C)[O:11]C(=O)C.CC(=O)O>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OCC(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C.CC(=O)O 10,11=11
[CH:20](=[OH+:21])O.[OH2:10].[Cl-]>>[CH:20]([OH2+:10])(O)[OH:21].[Cl-] 10=20;20,21=21
CCCCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)C3CCCCC3)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCCC[OH:10].[CH2:21]=[S:20](=O)=O.CC[NH+](CC)CC.[Cl-]>>CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCCC[OH+:10][S:20](=O)(=O)[CH2-:21].CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
COC1=CC2=C(C=C1)[C:20]([NH:10]CC2)(CC3=CC(=C(C=C3)OC)O)[Cl:21].[O-]P(=O)(Cl)Cl>>COC1=CC2=C(C=C1)[C:20](=[NH+:10]CC2)CC3=CC(=C(C=C3)OC)O.[Cl-:21].[O-]P(=O)(Cl)Cl 10=20;20,21=21
[BH3-][OH+:21][CH2:20][NH2:10]>>[BH3-][OH:21].[CH2:20]=[NH2+:10] 10=20;20,21=21
CC(=C)C1C(CC2=C3CCC4COC(=O)C4(C3CCC2(O1)C)C)[OH:10].CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-]>>CC(=C)C1C(CC2=C3CCC4COC(=O)C4(C3CCC2(O1)C)C)[OH+:10][I:20]5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)OC(=O)C.CC(=O)[O-] 10=20,
CC(C)CC(C(=O)OCC1=CC=CC=C1)[NH+:21]=[C:20]2C(O[C:11]([O:10]2)(C(CCCNC(=O)OCC3=CC=CC=C3)NC(=O)OC(C)(C)C)[O-:12])C(C)NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46>>CC(C)CC(C(=O)OCC1=CC=CC=C1)[NH:21][C:20](=[O:10])C(C(C)NC(=O)OCC2C3=C(C=CC=C3)C4=CC=CC=C24)O[C:11](=[O:12])C(CCCNC(=O)OCC5=CC=CC=C5)NC(=O)OC(C)(C)C 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)CCCC(=O)[Cl:10].[Al:20](Cl)(Cl)Cl>>C1=CC=C(C=C1)CCCC(=O)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
C[N:21](C=O)[I:20].C[Si](C)(C)C[CH:11]=[CH2:10]>>C[N-:21]C=O.C[Si](C)(C)C[CH+:11][CH2:10][I:20] 10,11=10,20;20,21=21
CCOC(=O)[N-:10][N:20](C(=O)OCC)[P+:21](C1CCCCC1)(C2CCCCC2)C3CCCCC3>>C1CCC(CC1)[P:21](C2CCCCC2)C3CCCCC3.CCOC(=O)[N:10]=[N:20]C(=O)OCC 10=20;20,21=21
